US05789430
A mixture of 3.43 g (10 mmol) of 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(5-mercapto-1,2,4-triazol-1-yl)-propan-2-ol, 20 ml of absolute acetonitrile and 1.38 g of (10 mmol) of potassium carbonate is treated with 0.93 ml (15 mmol) of methyl iodide and the mixture is stirred at 40° C. for 5 hours. The reaction mixture is then treated with saturated, aqueous sodium carbonate solution and extracted repeatedly using ethyl acetate. The combined organic phases are dried over sodium sulphate and concentrated under reduced pressure. In this manner, 3.4 g (95% of theory) of 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(5-methylthio-1,2,4-triazol-1-yl)-propan-2-ol are obtained in the form of oil.

reactant | 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(5-mercapto-1,2,4-triazol-1-yl)-propan-2-ol | 10 mmol, 3.43 g | ClC1(CC1)C(CC1=C(C=CC=C1)Cl)(CN1N=CN=C1S)O | C14H15Cl2N3OS
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 15 mmol, 0.93 ml | CI | CH3I
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(5-methylthio-1,2,4-triazol-1-yl)-propan-2-ol | 3.4 g, 95% | ClC1(CC1)C(CC1=C(C=CC=C1)Cl)(CN1N=CN=C1SC)O | C15H17Cl2N3OS
